US07648989B2
[2-(4-Methyl-piperazin-1-yl)-5-nitro-pyridin-4-yl]-acetic acid ethyl ester (2.78 g, 9.02 mmol) is dissolved in MeOH (28 ml). Palladium on carbon (10%, 96 mg, 0.90 mmol) is added, and the reaction flask is connected to a balloon filled with hydrogen. After vigorous stirring for 2.5 h, TLC analysis indicated complete conversion. The reaction mixture is filtered, the organic solvent removed, and the residue purified by FCC (CH2Cl2/MeOH, gradient from 97:3 to 70:30) to yield [5-amino-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid ethyl ester. 1H NMR (CDCl3, 400 MHz): δ 1.27 (t, J=7 Hz, 3H), 2.35 (s, 3H), 2.54 (m, 4H), 3.40 (m, 4H), 3.55 (s, 2H), 3.62 (s, broad, 2H), 4.16 (q, J=7 Hz, 2H), 6.50 (s, 1H), 7.79 (s, 1H). ES+−MS: 279.3 [M+H]+.

reactant | [2-(4-Methyl-piperazin-1-yl)-5-nitro-pyridin-4-yl]-acetic acid ethyl ester | 9.02 mmol, 2.78 g | C(C)OC(CC1=CC(=NC=C1[N+](=O)[O-])N1CCN(CC1)C)=O | C14H20N4O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 28 ml | CO | CH4O
catalyst | Palladium on carbon | 0.90 mmol, 96 mg | [Pd] | Pd
product | [5-amino-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=NC=C1N)N1CCN(CC1)C)=O | C14H22N4O2
